### PR TITLE
Show complete induction and clean up MoreFoundations/Nat a bit

### PR DESCRIPTION
**Pull request by arnoudvanderleer**

### CODE REVIEW

**Review by nmvdw — APPROVED** [review]

File: UniMath/MoreFoundations/Nat.v [hunk 1]
```diff
@@ -476,272 +490,287 @@ Qed.
...
-  set ( l2 := c2 x1 e1 ).
-  apply ( isantisymmnatleh _ _ l1 l2 ).
+  set (l1 := c1 x2 e2).
+  set (l2 := c2 x1 e1).
+  apply (isantisymmnatleh _ _ l1 l2).
 Defined.
 
-Theorem accth ( F : nat -> UU ) ( is : ∏ n , isdecprop ( F n ) )
-        ( is' : hexists F ) : natdecleast F is.
+Print isapropnatdecleast.
```
Comment (rmatthes) [inline UniMath/MoreFoundations/Nat.v:687]: is this print statement an accident?

Comment (arnoudvanderleer) [reply UniMath/MoreFoundations/Nat.v:687]: I think so, yes
